US04125726
8-Chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester
A stirred solution of 15 g (0.04 mole) of 2-[(amino)methoxycarbonylmethylene]-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine and 12 g (0.08 mole) of 1,2-epoxy-3-phenoxypropane in 150 ml of methylene chloride was cooled in an ice-salt bath and treated with 47 g (0.06 mole) of a 12.5% solution of phosgene in benzene at a moderate rate. Stirring in the cold under a drying tube was continued for 2 hours. A cold solution of 3N ammonium hydroxide (50 ml) was added and stirring was continued for 10 min. The organic phase was separated, dried over sodium sulfate and evaporated under reduced pressure. Stirring the oily residue with anhydrous ether gave off-white crystals. The crystals were filtered, washed with ether and air dried on the funnel to yield the end product. Recrystallization from ethanol methylene chloride gave white needles with mp 273°-276° (dec). Uv λ max 223 mμ (ε=43800) 276 (21100) infl 348 (1100) ir (KBr) 3150 (NH) 1720 (COOMe, CO) nmr (CDCl3) δ 3.80 ppm (s, 3, OCH3) 4.11 (broad d, 1) and 5.58 (broad d, 1) (AB-system, J=12 Hz, C4 -H) 6.95 (d, 1, J=2.5 Hz, C7 -H) 7.3-7.8 (m, 5, aromatic H) 7.96 (d, 1, J=8 Hz, C10 -H) 11.19 (broad s, 1, NH).

reactant | 2-[(amino)methoxycarbonylmethylene]-7-chloro-5-(2-chlorophenyl)-1,3-dihydro-2H-1,4-benzodiazepine | 0.04 mole, 15 g | NCOC(=O)C=C1NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C18H15Cl2N3O2
reactant | 1,2-epoxy-3-phenoxypropane | 0.08 mole, 12 g | O1CC1COC1=CC=CC=C1 | C9H10O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ammonium hydroxide | 3N, 50 ml | [OH-].[NH4+]
reactant | KBr | [K+].[Br-]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 8-Chloro-6-(2-chlorophenyl)-1,2-dihydro-1-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid methyl ester | COC(=O)C=1NC(N2C1CN=C(C1=C2C=CC(=C1)Cl)C1=C(C=CC=C1)Cl)=O | C19H13Cl2N3O3
